US06124323
1-[2-(4-Hydroxy-3-fluorophenoxy)ethyl]-4-(4-fluorobenzyl)piperidine hydrochloride
The title compound was prepared from 4-(4-fluorobenzyl)piperidine hydrochloride (344 mg, 1.50 mmol), 2-(4-benzoxy-3-fluorophenoxy)ethyl bromide (487 mg, 1.50 mmol), potassium carbonate (518 mg, 3.75 mmol) in two steps as white-off solid (277 mg), mp 184-186° C. 1H NMR (CD3OD) 1.40 (m, 2 H), 1.709 (m, 3 H), 2.424 (d, J=4.8 Hz, 2 H), 2.850 (m, 2 H), 3.319 (m, 2 H), 3.443 (d, J=12.0 Hz, 2 H), 4.087 (s, 2 H), 6.50 (m, 1 H), 6.642 (m, 2 H), 6.833 (m, 2 H), 7.021 (m, 2 H).

reactant | 4-(4-fluorobenzyl)piperidine hydrochloride | 1.50 mmol, 344 mg | Cl.FC1=CC=C(CC2CCNCC2)C=C1
reactant | 2-(4-benzoxy-3-fluorophenoxy)ethyl bromide | 1.50 mmol, 487 mg | C(C1=CC=CC=C1)OC1=C(C=C(OCCBr)C=C1)F | C15H14BrFO2
reactant | potassium carbonate | 3.75 mmol, 518 mg | C([O-])([O-])=O.[K+].[K+]
product | 1-[2-(4-Hydroxy-3-fluorophenoxy)ethyl]-4-(4-fluorobenzyl)piperidine hydrochloride | Cl.OC1=C(C=C(OCCN2CCC(CC2)CC2=CC=C(C=C2)F)C=C1)F | InChI=1S/C20H23F2NO2.ClH/c21-17-3-1-15(2-4-17)13-16-7-9-23(10-8-16)11-12-25-18-5-6-20(24)19(22)14-18;/h1-6,14,16,24H,7-13H2;1H
